US05660814
To a solution of 50 g of 3-amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid (CAS RN, 96-83-3) (0.0875 mol) in 200 ml of DMA at 0° C., 11.87 g of chloroacetyl chloride (0.10 mol) are added. After 60 minutes at room temperature, the solution is dropwise added to 100 ml of H2O to give a precipitate which is filtered. The residue is dissolved in 100 ml of H2O and 43.7 ml of 2N NaOH (0.0875 mol) are added. 42 ml of 2N HCl (0.0084 mol) are added to precipitate a solid which is filtered. 5.4 g of 3-[(2-chloroacetyl)amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid are obtained (0.083 mol).

reactant | 3-amino-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 0.0875 mol, 50 g | NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C11H12I3NO2
reactant | chloroacetyl chloride | 0.10 mol, 11.87 g | ClCC(=O)Cl | C2H2Cl2O
reactant | NaOH | 0.0875 mol, 2N, 43.7 ml | [OH-].[Na+]
reactant | HCl | 0.0084 mol, 2N, 42 ml | Cl | ClH
solvent | DMA | 200 ml | CC(=O)N(C)C | C4H9NO
solvent | H2O | 100 ml | O | H2O
product | 3-[(2-chloroacetyl)amino]-α-ethyl-2,4,6-triiodobenzenepropanoic acid | 5.4 g, Yield: 95.3% | ClCC(=O)NC=1C(=C(C(=CC1I)I)CC(C(=O)O)CC)I | C13H13ClI3NO3
